US07834012B2
(1S,6R)-[3-(2-Trifluoromethyl-5,6-dihydro-8H-imidazo[1,2-a]pyrazine-7-carbonyl)-6-(2,4,5-trifluoro-phenyl)-cyclohex-3-enyl]-carbamic acid tert-butyl ester
(4R,5S)-5-tert-Butoxycarbonylamino-4-(2,4,5-trifluoro-phenyl)-cyclohex-1-enecarboxylic acid (98.4 g) and EDCI (60.8 g 0.32 mol), HOBT (43 g, 0.32 mol) were mixed in THF/DMF (120 mL/120 mL). The mixture was cooled to 0° C. and diisopropylethyl amine (151.5 mL, 0.86 mol) was added slowly. The mixture was stirred for approximate twenty minutes, and then 2-trifluoromethyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazine HCl salt (83.9 g, 0.32 mol) was added. The mixture was stirred overnight, and concentrated in vacuo. Ethyl acetate (1000 mL) was added followed by 1N HCl (750 mL). The mixture was extracted with ethyl acetate, and the combined organic extract was washed with saturated NaHCO3 (750 mL), water, and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give an oil (153.6 g). The crude amide (228 g) was dissolved in 470 mL of EtOH, and 1350 mL of hexanes was added with stirring. After stirring overnight, the solid was collected by filtration, washed with 450 mL of 50% Et2O/hexanes and then dried in vacuum at 45° C. to give 165.8 g (73%) of product as a white solid.

reactant | (4R,5S)-5-tert-Butoxycarbonylamino-4-(2,4,5-trifluoro-phenyl)-cyclohex-1-enecarboxylic acid | 98.4 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](CC=C(C1)C(=O)O)C1=C(C=C(C(=C1)F)F)F | C18H20F3NO4
reactant | EDCI | 0.32 mol, 60.8 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.32 mol, 43 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethyl amine | 0.86 mol, 151.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-trifluoromethyl-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazine HCl salt | 0.32 mol, 83.9 g | Cl.FC(C=1N=C2N(CCNC2)C1)(F)F
solvent | THF DMF | 120 mL | C1CCOC1.CN(C)C=O
product | (1S,6R)-[3-(2-Trifluoromethyl-5,6-dihydro-8H-imidazo[1,2-a]pyrazine-7-carbonyl)-6-(2,4,5-trifluoro-phenyl)-cyclohex-3-enyl]-carbamic acid tert-butyl ester | 153.6 g | C(C)(C)(C)OC(N[C@H]1CC(=CC[C@@H]1C1=C(C=C(C(=C1)F)F)F)C(=O)N1CC=2N(CC1)C=C(N2)C(F)(F)F)=O | C25H26F6N4O3
